US09126993B2
To a solution of quinuclidin-3-ol (382 mg, 3.00 mmol) in THF (15 mL) was added NaH [60% dispersion in mineral oil] (156 mg, 3.90 mmol) at room temperature. The mixture was stirred for 15 min and 2-bromophenyl isocyanate (594 mg, 3.00 mmol) was added under stirring. The resulting mixture was stirred at room temperature for 18 h, quenched with brine and extracted with EtOAc. The organic layers were combined, dried over Na2SO4 and concentrated. The resulting crude product was purified by silica gel column chromatography (EtOAc/methanol 3:1) to give the product quinuclidin-3-yl 2-bromophenylcarbamate as viscous oil (0.80 g, 82%).

reactant | quinuclidin-3-ol | 3.00 mmol, 382 mg | N12CC(C(CC1)CC2)O | C7H13NO
reactant | NaH | 3.90 mmol, 156 mg | [H-].[Na+]
reactant | 2-bromophenyl isocyanate | 3.00 mmol, 594 mg | BrC1=C(C=CC=C1)N=C=O | C7H4BrNO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | quinuclidin-3-yl 2-bromophenylcarbamate | 0.80 g, 82% | BrC1=C(C=CC=C1)NC(OC1CN2CCC1CC2)=O | C14H17BrN2O2
